US05001131
8-Amino-5,6,7,8-tetrahydro-3-methyl-quinoline (3.07g) was dissolved in CH2Cl2 [(250ml) and 4-methylbenzenesulphonyl-chloride (2.68g) was added in CH2Cl2 (25ml) followed by triethylamine (25ml) in CH2Cl2 (25ml). The reaction mixture was stirred at room temperature until t.l.c. showed all the starting material to have reacted. The solvent was removed under reduced pressure and the residue was dissolved in 2N.HCl (200ml) and extracted with Et2O (2×100ml). The acid solution was then basified with solid K2CO3 and was extracted with CH2Cl2 (3×100ml). The extracts were dried (MgSO4) and evaporated to low volume under reduced pressure. The residue was treated with Et2O/HCl to give a white solid which was recrystallised from EtOH to give 5,6,7,8-tetrahydro-3-methyl-8-(4-methylbenzenesulphonylamino) quinoline hydrochloride (2.1g). mp. 214° C. decomp. (Found: C,58.3; H,6.2; N,7.7. C17H21N 2 SO2Cl requires: C,58.0; H,6.0; N,7.8%).

reactant | 8-Amino-5,6,7,8-tetrahydro-3-methyl-quinoline | 3.07g | NC1CCCC=2C=C(C=NC12)C | C10H14N2
reactant | 4-methylbenzenesulphonyl-chloride | 2.68g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 25ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25ml | C(Cl)Cl | CH2Cl2
product | 5,6,7,8-tetrahydro-3-methyl-8-(4-methylbenzenesulphonylamino) quinoline hydrochloride | 2.1g | Cl.CC=1C=NC=2C(CCCC2C1)NS(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C17H20N2O2S.ClH/c1-12-6-8-15(9-7-12)22(20,21)19-16-5-3-4-14-10-13(2)11-18-17(14)16;/h6-11,16,19H,3-5H2,1-2H3;1H
